************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: CLKMX2X6
* View Name:     schematic
* Netlisted on:  Jun  4 07:40:44 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD:P
+        VSS:G
+        ExtVDD:P
+        ExtVSS:G

*.PIN VDD
*+    VSS
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    CLKMX2X6
* View Name:    schematic
************************************************************************

.SUBCKT CLKMX2X6 A B S0 VDD VSS Y
*.PININFO A:I B:I S0:I VDD:I VSS:I Y:O
Mmn3 net140 B VSS VSS g45n1svt m=1 l=45n w=205n
Mmn0 S0b S0 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn2 n0 S0b net148 VSS g45n1svt m=1 l=45n w=205n
Mmn1 net148 A VSS VSS g45n1svt m=1 l=45n w=205n
Mmn5 Y n0 VSS VSS g45n1svt m=1 l=45n w=1.55u
Mmn4 n0 S0 net140 VSS g45n1svt m=1 l=45n w=205n
Mmp4 n0 S0b net115 VDD g45p1svt m=1 l=45n w=310n
Mmp3 net115 B VDD VDD g45p1svt m=1 l=45n w=310n
Mmp5 Y n0 VDD VDD g45p1svt m=1 l=45n w=2.35u
Mmp2 n0 S0 net123 VDD g45p1svt m=1 l=45n w=310n
Mmp0 S0b S0 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp1 net123 A VDD VDD g45p1svt m=1 l=45n w=310n
.ENDS

